US03932465
A solution of 1.1 g of pyrocatechol in 6 ml of trifluoroacetic acid is mixed with 0.8 g of 3-acetoxymethyl-7-(N-phenylacetyl-amino)-ceph-2-em-4ξ-carboxylic acid and the solution is left to stand for 15 minutes at room temperature. It is diluted with an equal quantity of toluene, the mixture is evaporated to dryness under reduced pressure, and the residue is twice triturated with 30 ml portions of diethyl ether to remove the excess pyrocatechol. The residue is worked up in accordance with the process described in example 6 and yields 3-(3,4-dihydroxybenzyl)-7-(N-phenylacetyl-amino)-ceph-2-em-4ξ-carboxylic acid which after crystallisation from a mixture of acetic acid ethyl ester and acetone is obtained in the form of colourless crystals, melting point 114°C; thin layer chromatogram (silica gel): Rf = 0.71 (system n-butanol/acetic acid/water, 75:7.5:21), Rf = 0.73 (system n-butanol/acetic acid/water, 67:10:23) and Rf = 0.44 (system n-butanol/ethanol/water, 40:10:50); ultraviolet absorption spectrum (methanol): λmax 222 mμ (ε = 17600), 250 mμ (ε = 6800) and 283 mμ (ε = 3700); infrared absorption spectrum (in mineral oil): characteristic bands at 3.01μ, 5.72μ, 5.87μ and 6.06μ.

reactant | pyrocatechol | 1.1 g | C=1(O)C(O)=CC=CC1 | C6H6O2
reactant | 3-acetoxymethyl-7-(N-phenylacetyl-amino)-ceph-2-em-4ξ-carboxylic acid | 0.8 g | C(C)(=O)OCC1=CS[C@H]2N(C1C(=O)O)C(C2NC(CC2=CC=CC=C2)=O)=O | C18H18N2O6S
solvent | trifluoroacetic acid | 6 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 3-(3,4-dihydroxybenzyl)-7-(N-phenylacetyl-amino)-ceph-2-em-4ξ-carboxylic acid | OC=1C=C(CC2=CS[C@H]3N(C2C(=O)O)C(C3NC(CC3=CC=CC=C3)=O)=O)C=CC1O | C22H20N2O6S
